US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-2′-(1-bromo-vinyl)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester
To a mixture of racemic (2′R,3R,4′S)-2′-(1-bromo-vinyl)-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (120 mg, 0.26 mmol) and 4-dimethylaminopyridine (32 mg, 0.26 mmol) in dichloromethane (10 mL) was added Di-t-butyldicarbonate (74 mg, 0.34 mmol). The mixture was stirred at room temperature for 2 h, then washed with aqueous HCl (0.5 M) and water. The organic layer was separated, dried over Na2SO4, concentrated to give the title compound (130 mg, 88%).

reactant | racemic (2′R,3R,4′S)-2′-(1-bromo-vinyl)-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.26 mmol, 120 mg | BrC(=C)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O | C20H15BrCl2N2O2
reactant | Di-t-butyldicarbonate | 0.34 mmol, 74 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.26 mmol, 32 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | racemic (2′R,3R,4′S)-2′-(1-bromo-vinyl)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester | 130 mg, 88% | C(C)(C)(C)OC(=O)N1C(C2(C(NC(CC2C2=CC(=CC=C2)Cl)=O)C(=C)Br)C2=CC=C(C=C12)Cl)=O | C25H23BrCl2N2O4
